US08802704B2
Step 2: 4-(hydroxymethyl)-3-methylbenzonitrile
A mixture of (4-bromo-2-methylphenyl)methanol (603 mg, 3.0 mmol), Pd2(dba)3 (110 mg, 0.12 mmol), S-Phos (99 mg, 0.24 mmol) and zinc cyanide (421 mg, 3.6 mmol) was prepared in a mixture of DMF/water (99:1, 5 mL) under nitrogen atmosphere and heated at 130° C. for 30 minutes under microwave irradiation. The suspension was filtered through a Celite pad and the filter-cake washed with EtOAc. The filtrate was washed with water and brine. The organic phase was passed through a hydrophobic frit and the solvent evaporated in vacuo. The residue was purified by flash chromatography (silica, petrol ether/EtOAc) to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 7.58-7.48 (2H, m), 7.44 (1H, s), 4.75 (2H, d, J=5.5 Hz), 2.33 (3H, s), 1.85-1.78 (1H, m).

reactant | (4-bromo-2-methylphenyl)methanol | 3.0 mmol, 603 mg | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
reactant | S-Phos | 0.24 mmol, 99 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | DMF water | 5 mL | CN(C)C=O.O
catalyst | Pd2(dba)3 | 0.12 mmol, 110 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 3.6 mmol, 421 mg | [C-]#N.[Zn+2].[C-]#N
product | 4-(hydroxymethyl)-3-methylbenzonitrile | OCC1=C(C=C(C#N)C=C1)C | C9H9NO
